US08466114B2
To a solution of 4-benzyl-6-[2-cyclopropyl-5-((2S,3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine (0.42 g, 0.4783 mmol) in THF (4.7 mL) was added 10% palladium on charcoal (80 mg), 0.1 mL conc. HCl followed by methanol (4.7 mL) and the mixture was stirred under hydrogen atmosphere for 18 h. The reaction mixture was filtered through a celite bed, washed with methanol and concentrated. The resulting residue was purified by preparative HPLC to furnish (2S,3R,4R,5S,6R)-2-[4-cyclopropyl-3-(3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (34 mg).

reactant | 4-benzyl-6-[2-cyclopropyl-5-((2S,3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine | 0.4783 mmol, 0.42 g | C(C1=CC=CC=C1)N1CCOC2=C1C=C(C=C2)CC2=C(C=CC(=C2)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)C2CC2 | C59H59NO6
reactant | HCl | 0.1 mL | Cl | ClH
reactant | methanol | 4.7 mL | CO | CH4O
solvent | THF | 4.7 mL | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 80 mg | [Pd] | Pd
product | (2S,3R,4R,5S,6R)-2-[4-cyclopropyl-3-(3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 34 mg | C1(CC1)C1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC=1C=CC2=C(NCCO2)C1 | C24H29NO6
